US06723743B1
2-Phenyl-3-butylisonicotinic acid (141).
A mixture of 4-phenyl-5-butyloxazole (12,5 g, 25 mmol) and maleic acid (3.5 g, 30 mmol) is heated at 100° C. for 30 min. After cooling, the semisolid mass is triturated with ether and the solid collected by filtration. 1H NMR (δ, CDCl3, 400 MHz) 11.68 (brs, 1H), 8.72 (d, J=6.0 Hz, 1H), 7.73 (d, J=5.6 Hz, 1H), 7.48-7.51 (m, 2H), 7.42-7.44 (m, 2H), 6.25 (s, 1H), 2.86 (d, J=7.6 Hz, 2H), 1.36 (m, 2H), 1.11 (dt, J=7.6, 7.2 Hz, 2H), 0.68 (t, J=7.6 Hz, 3H). MS (M+1): 256, (M−1) 254.

reactant | 4-phenyl-5-butyloxazole | 25 mmol, 12,5 g | C1(=CC=CC=C1)C=1N=COC1CCCC | C13H15NO
reactant | maleic acid | 30 mmol, 3.5 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
product | 2-Phenyl-3-butylisonicotinic acid | C1(=CC=CC=C1)C=1C(=C(C(=O)O)C=CN1)CCCC | C16H17NO2
